US07101886B2
2-{4-[2-(4-BENZO[D]ISOTHIAZOL-3-YL-PIPERAZIN-1-YL)-ETHYL]-PHENYL}-2,3-DIHYDRO-ISOINDOL-1-ONE
4-[2-(4-Benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-phenylamine (338.4 mg, 1.0 mmol) was reacted at reflux for 30 min with o-phthaldialdehyde (147.5 mg, 1.1 mmol) and a catalytic amount of acetic acid (57 μL, 0.1 mmol) in acetonitrile (100 mL) to give the title compound. The product obtained was purified by elution through a flash column (silica gel 40, 230–400 mesh, 100:8:1, CH2Cl:EtOH:NH4OH) to give a yellow crystalline material, yield=245 mg (53.9%). mp 175.9° C. MS (APCI): 455 [M+H]+. 1H-NMR (dmso-d6, δ): 2.59 (m, 2H) 2.66 (m, 4H) 2.77 (m, 2H) 3.43 (m, 4H) 4.98 (s, 2H) 7.30 (d, J=8.79 Hz, 2H) 7.40 (dd, J=8.67, 7.45 Hz, 1H) 7.52 (m, 2H) 7.64 (m, 2H) 7.77 (m, 3H) 8.03 (d, J=9.28 Hz, 2H).

reactant | 4-[2-(4-Benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-phenylamine | 1.0 mmol, 338.4 mg | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC=C(C=C2)N | C19H22N4S
reactant | o-phthaldialdehyde | 1.1 mmol, 147.5 mg | C1=CC=C(C(=C1)C=O)C=O | C8H6O2
reactant | acetic acid | 0.1 mmol, 57 μL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-{4-[2-(4-BENZO[D]ISOTHIAZOL-3-YL-PIPERAZIN-1-YL)-ETHYL]-PHENYL}-2,3-DIHYDRO-ISOINDOL-1-ONE | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC=C(C=C2)N2C(C1=CC=CC=C1C2)=O | C27H26N4OS
